US07253286B2
N-(4-{6-Cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea
N-[2-Chloro-4-(6-cyano-7-hydroxyquinolin-4-yloxy) phenyl]-N′-methylurea (600 mg) was added to dimethylformamide (4 ml), and then (2R)-(−)-glycidyl p-toluenesulfonate (484 mg) and potassium carbonate (450 mg) were added thereto and the mixture was heated at 50° C. for 4 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate, the organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained crude product was recrystallized with ethyl acetate to obtain the title compound (650 mg) as light yellow crystals.

reactant | N-[2-Chloro-4-(6-cyano-7-hydroxyquinolin-4-yloxy) phenyl]-N′-methylurea | 600 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)O)NC(=O)NC | C18H13ClN4O3
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | (2R)-(−)-glycidyl p-toluenesulfonate | 484 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
reactant | potassium carbonate | 450 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-(4-{6-Cyano-7-[(2R)-oxiran-2-yl]methoxyquinolin-4-yloxy}-2-chlorophenyl)-N′-methylurea | 650 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=CC(=C(C=C1)NC(=O)NC)Cl | C21H17ClN4O4
